US09255089B2
4-(3,5-Dimethylisoxazol-4-yl)-N1-ethyl-6-(6-methylquinolin-5-yl)benzene-1,2-diamine (90 mg, 0.24 mmol) and 1,1′-carbonyldiimidazole (86.2 mg, 0.53 mmol) were added to tetrahydrofuran (10 ml) in a sealed vessel and heated to 105° C. overnight. The reaction mixture was the diluted in EtOAc and aqueous ammonium chloride and extracted with EtOAc (3 times). Organics were washed with ammonium chloride, water and brine and dried over sodium sulfate. Solvent was evaporated to dryness Crude material was purified by silica gel chromatography (DCM/MeOH as eluent) then by preparative HPLC to afford 5-(3,5-dimethylisoxazol-4-yl)-1-ethyl-7-(6-methylquinolin-5-yl)-1H-benzo[d]imidazol-2(3H)-one.

reactant | 4-(3,5-Dimethylisoxazol-4-yl)-N1-ethyl-6-(6-methylquinolin-5-yl)benzene-1,2-diamine | 0.24 mmol, 90 mg | CC1=NOC(=C1C=1C=C(C(=C(C1)C1=C2C=CC=NC2=CC=C1C)NCC)N)C | C23H24N4O
reactant | 1,1′-carbonyldiimidazole | 0.53 mmol, 86.2 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(3,5-dimethylisoxazol-4-yl)-1-ethyl-7-(6-methylquinolin-5-yl)-1H-benzo[d]imidazol-2(3H)-one | CC1=NOC(=C1C1=CC2=C(N(C(N2)=O)CC)C(=C1)C1=C2C=CC=NC2=CC=C1C)C | C24H22N4O2
